US08008491B2
To a mixture of 7-azaindole (550 mg, 4.66 mmol), copper iodide (7.4 mg, 0.038 mmol) and potassium phosphate (1.74 g, 8.18 mmol) under a N2 atmosphere is added racemic trans-1,2-diaminocyclohexane (0.046 mL, 0.38 mmol), iodobenzene (0.436 mL, 3.9 mmol) followed by anhydrous dioxane (5 mL). The resulting suspension is heated in an oil bath at 110° C. with magnetic stirring for 24 hours. The resulting mixture is filtered through a short pad of silica gel, washing the cake well with ethyl acetate. The filtrate is evaporated to leave a brown oil. The residue is purified by flash chromatography on a 10-gram silica gel cartridge by elution with heptane:ethyl acetate (4:1). Fractions containing the product are combined and the solvent evaporated, and further purified by flash chromatography on a 10-gram silica gel cartridge by elution with heptane:ethyl acetate (19:1). Clean fractions containing the product are combined and evaporated to give 758 mg of 1-phenyl-7-azaindole as a light brown oil (100% yield). 1H NMR (300 MHz, CDCl3): 8.37 (1H, dd), 7.97 (1H, dd), 7.76 (2H, d), 7.56-7.49 3H m), 7.35 (1H, t), 7.13 (1H, dd), 6.63 (1H, d).

reactant | 7-azaindole | 4.66 mmol, 550 mg | N1C=CC2=CC=CN=C12 | C7H6N2
reactant | potassium phosphate | 8.18 mmol, 1.74 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | iodobenzene | 3.9 mmol, 0.436 mL | IC1=CC=CC=C1 | C6H5I
catalyst | copper iodide | 0.038 mmol, 7.4 mg | [Cu](I)I
catalyst | racemic trans-1,2-diaminocyclohexane | 0.38 mmol, 0.046 mL | N[C@H]1[C@@H](CCCC1)N | C6H14N2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-phenyl-7-azaindole | 758 mg, 100% yield | C1(=CC=CC=C1)N1C=CC2=CC=CN=C12 | C13H10N2
